US07700640B2
NaHMDS (148 mmol; 27.2 g) was charged to a 1000 ml round-bottomed flask (4 necks, thermometer, pressure-equalising dropping funnel, stopper, nitrogen inlet, magnetically stirred, oven dried, nitrogen purged), followed by DMF (300 ml). The mixture was stirred for 5 minutes then 1-methoxy-2-propanol (1.50 equiv; 148 mmol; 14.3 ml; 13.4 g) was added dropwise over a 10-minute period. The reaction temperature increased to 25° C. The mixture was cooled using a cold-water bath to 23° C., then 3-bromo-5-fluorobenzonitrile (1.00 equiv; 99.0 mmol; 20.0 g) in DMF (90 ml) was added over a 5 minutes period (cold water bath still present). The mixture warmed to 27° C. during addition, turning from yellow to brown. A line wash of DMF (10 ml) was added. The mixture was stirred at ambient temperature for 30 minutes, then quenched by addition of HCl solution (2M, aqueous, 200 ml), the dark brown reaction mixture turning pale yellow. The mixture was poured into water (400 ml) and extracted with EtOAc (3×400 ml). The combined organic extracts were washed with water (3×400 ml) and dried over MgSO4, filtered and the solvent removed in vacuo affording 3-bromo-5-(2-methoxy-1-methylethoxy)benzonitrile as an orange oil (25.38 g, 95%). 1H NMR (400 MHz, CDCl3) δ: 7.32 (s, 1H), 7.26 (s, 1H), 7.11 (s, 1H), 4.58-4.55 (m, 1H), 3.59-3.48 (m, 2H), 3.41 (s, 3H), 1.33-1.31 (d, 3H).

reactant | NaHMDS | 148 mmol, 27.2 g | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-methoxy-2-propanol | 148 mmol, 14.3 ml, 13.4 g, 1.50 equiv | COCC(C)O | C4H10O2
reactant | 3-bromo-5-fluorobenzonitrile | 99.0 mmol, 20.0 g, 1.00 equiv | BrC=1C=C(C#N)C=C(C1)F | C7H3BrFN
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 3-bromo-5-(2-methoxy-1-methylethoxy)benzonitrile | 25.38 g, 95% | BrC=1C=C(C#N)C=C(C1)OC(COC)C | C11H12BrNO2
